US05344830
Step A: (S)-2-(2-(N-(Benzyloxycarbonyl)-N-(carbamoylmethyl)amino)ethylamino carbonyl)-4-(N,N-di-n-pentylcarbamoyl)-1-(N,N-diphenylcarbamoyl)piperazine
According to the procedure of Example 1, Step E above, 60 mg (0.12 mmole) of (S)-4-(dipentylcarbamoyl)-1-(N,N-diphenylcarbamoyl)piperazine-2carboxylic acid, 18 mg (0.13 mmole) of HOBt, 32 mg (0.17 mmole) of EDAC, 86 mg (ca. 0.24 mmole) of N-(benzyloxycarbonyl)-N-(carbamoylmethyl)ethylenediamine trifluoroacetic acid salt and 33 microliters (0.24 mmole) of triethylamine after purification by flash chromatography on 16 g of silica gel eluting with 450 mL of 100:3.5 CH2Cl2 :methanol followed by flash chromatography on 16 g of silica with 450 mL of 100:3 CH2Cl2 :methanol then 200 mL of 100:5 CH2Cl2 :methanol gave 62 mg (70%) of an oil.

reactant | (S)-4-(dipentylcarbamoyl)-1-(N,N-diphenylcarbamoyl)piperazine-2carboxylic acid | 0.12 mmole, 60 mg | C(CCCC)N(C(=O)N1C[C@H](N(CC1)C(N(C1=CC=CC=C1)C1=CC=CC=C1)=O)C(=O)O)CCCCC | C29H40N4O4
reactant | HOBt | 0.13 mmole, 18 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDAC | 0.17 mmole, 32 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | N-(benzyloxycarbonyl)-N-(carbamoylmethyl)ethylenediamine trifluoroacetic acid salt | ca. 0.24 mmole, 86 mg | FC(C(=O)O)(F)F.C(C1=CC=CC=C1)OC(=O)N(CCN)CC(N)=O
reactant | triethylamine | 0.24 mmole, 33 microliters | C(C)N(CC)CC | C6H15N
product | (S)-2-(2-(N-(Benzyloxycarbonyl)-N-(carbamoylmethyl)amino)ethylamino carbonyl)-4-(N,N-di-n-pentylcarbamoyl)-1-(N,N-diphenylcarbamoyl)piperazine | 62 mg, 70% | C(C1=CC=CC=C1)OC(=O)N(CC(N)=O)CCNC(=O)[C@H]1N(CCN(C1)C(N(CCCCC)CCCCC)=O)C(N(C1=CC=CC=C1)C1=CC=CC=C1)=O | C41H55N7O6
